US07390910B2
Tert-butyl (2S)-2-{(1R,2R)-1-hydroxy-2-methyl-3-[(4R,5S)-4-methyl-2-oxo-5phenyl-1,3-oxazolidin-3-yl]-3-oxopropyl}pyrrolidine-1-carboxylate
In following the procedure of Shioiri et al. (Shioiri, T.; Hayashi, K.; Hamada, Y. Tetrahedron. 49(9), 1993, 1913-1924), to a 0° C. (ice-water bath) solution of (4R,5S)-4-methyl-5-phenyl-3-propionyl-2-oxazolidinone (6.4 g, 27 mmol, Fluka) in dichloromethane (110 mL) is added triethylamine (4.3 mL, 31 mmol). Di-n-butylboron triflate (1.0 M solution in dichloromethane, 29 mL, Aldrich) is added dropwise and the resulting mixture is allowed to stir for 45 minutes at 0° C., then cooled to −78° C. (dry ice/acetone bath). N-(tert-butoxycarbonyl)-L-prolinal (3.1 g, 16 mmol, Omega) is added dropwise as a solution in dichloromethane (16 mL) and the reaction mixture is allowed to stir for 2 hours at −78° C. The reaction vessel is then stored in a 0° C. freezer overnight. The next morning, the reaction mixture is warmed to room temperature over 15 minutes and then quenched by the addition of pH 7 phosphate buffer (55 mL) followed by methanol (80 mL). The mixture is then cooled to 0° C. (ice-water bath) and 30% hydrogen peroxide-methanol (1:2, 96 mL) is added dropwise to keep the internal temperature less than 10° C. After stirring for 1 hour in an ice-water bath, to the reaction mixture is added water (55 mL). Volatiles are removed under reduced pressure and the aqueous residue is extracted thrice with diethyl ether. The combined extracts are washed with 1 M potassium bisulfate solution, water, saturated aqueous sodium bicarbonate solution, and saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The crude viscous pale yellow oil (9.5 g) is purified by flash chromatography (hexanes/ethyl acetate) to give 4.6 g (67%) of a white foam. MS (ES+): (M+H)=433.3

reactant | (4R,5S)-4-methyl-5-phenyl-3-propionyl-2-oxazolidinone | 27 mmol, 6.4 g | C[C@H]1N(C(O[C@H]1C1=CC=CC=C1)=O)C(CC)=O | C13H15NO3
reactant | triethylamine | 31 mmol, 4.3 mL | C(C)N(CC)CC | C6H15N
reactant | Di-n-butylboron triflate | 1.0 M, 29 mL | [O-]S(=O)(=O)C(F)(F)F.C(CCC)[B+]CCCC
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | N-(tert-butoxycarbonyl)-L-prolinal | 16 mmol, 3.1 g | C(C)(C)(C)OC(=O)N1[C@H](C=O)CCC1 | C10H17NO3
solvent | dichloromethane | 110 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 16 mL | ClCCl | CH2Cl2
product | Tert-butyl (2S)-2-{(1R,2R)-1-hydroxy-2-methyl-3-[(4R,5S)-4-methyl-2-oxo-5phenyl-1,3-oxazolidin-3-yl]-3-oxopropyl}pyrrolidine-1-carboxylate | 4.6 g, 67% | O[C@H]([C@H](C(=O)N1C(O[C@H]([C@H]1C)C1=CC=CC=C1)=O)C)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C23H32N2O6
